US05556864
A solution of 980 mg of ethyl 2-methoxycinnamate in 15 ml of tetrahydrofuran was added dropwise to a dispersion of 290 mg of lithium aluminum hydride and 10 ml of tetrahydrofuran, whilst ice-cooling. After the addition was complete, the reaction mixture was stirred at room temperature for 1.5 hours, and then sufficient sodium sulfate decahydrate was slowly added, whilst ice-cooling, to the mixture in order to decompose any excess of the hydride. Insoluble materials were filtered off, and the filtrate was concentrated by distillation under reduced pressure. The resulting residue was purified by column chromatography through silica gel, using a 3:1 by volume mixture of hexane and ethyl acetate as the eluent, to give 640 mg of 3-(2-methoxyphenyl)propanol as a colorless oil.

reactant | ethyl 2-methoxycinnamate | 980 mg | COC1=C(C=CC(=O)OCC)C=CC=C1 | C12H14O3
reactant | lithium aluminum hydride | 290 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | sodium sulfate decahydrate | O.O.O.O.O.O.O.O.O.O.S(=O)(=O)([O-])[O-].[Na+].[Na+]
reactant | hydride | [H-]
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 3-(2-methoxyphenyl)propanol | 640 mg | COC1=C(C=CC=C1)CCCO | C10H14O2
